US03994954
To a stirred mixture of 11.0 g. (0.1 mol.) of resorcinol and 24.7 g. (0.085 mol.) of N-t-butoxycarbonyl-2-acetoxyglycine n-butyl ester in 250 ml. of methylene chloride at 0° was added 1 ml. of boron trifluoride etherate. The reaction mixture was allowed to warm to room temperature during a 30 minute period, then it was stirred for an additional 3 hours. The reaction mixture was washed five times with equal volumes of water, dried (Na2SO4) and concentrated in vacuo to give N-t-butoxycarbonyl-2-(2,4-dihydroxyphenyl)glycine n-butyl ester.

reactant | resorcinol | 0.1 mol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | N-t-butoxycarbonyl-2-acetoxyglycine n-butyl ester | 0.085 mol | C(CCC)OC(C(NC(=O)OC(C)(C)C)OC(C)=O)=O | C13H23NO6
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-t-butoxycarbonyl-2-(2,4-dihydroxyphenyl)glycine n-butyl ester | C(CCC)OC(C(NC(=O)OC(C)(C)C)C1=C(C=C(C=C1)O)O)=O | C17H25NO6
